US04865990
To an ice-cold solution of 5.8 g of 4-(4'-amino-2'-methylphenylazo)benzamidinium chloride in 800 parts of water was added 3.8 g of cyanuric chloride and the pH maintained between 5 and 6 and finally raised to 7 by the addition of 20 g of 1M sodium hydroxide solution. To this solution were then added 8 g of mixed phosphate buffer (equimolar amounts of KH2PO4 and Na2HPO4), followed by 40 g of salt and the precipitate of dichlorotriazine filtered off, mixed with further 1 g of phosphate buffer to ensure stability during drying and dried in vacuo giving 4-(4-[4,6-dichloro-s-triazin-2-ylamino]-2-methyl-phenylazo)benzamidinium chloride.

reactant | 4-(4'-amino-2'-methylphenylazo)benzamidinium chloride | 5.8 g | [Cl-].NC1=CC(=C(C=C1)N=NC1=CC=C(C(=[NH2+])N)C=C1)C
reactant | cyanuric chloride | 3.8 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | sodium hydroxide | 1M, 20 g | [OH-].[Na+]
reactant | phosphate | 8 g | P(=O)([O-])([O-])[O-]
solvent | water | O | H2O
product | 4-(4-[4,6-dichloro-s-triazin-2-ylamino]-2-methyl-phenylazo)benzamidinium chloride | [Cl-].ClC1=NC(=NC(=N1)Cl)NC1=CC(=C(C=C1)N=NC1=CC=C(C(=[NH2+])N)C=C1)C | InChI=1S/C17H14Cl2N8.ClH/c1-9-8-12(22-17-24-15(18)23-16(19)25-17)6-7-13(9)27-26-11-4-2-10(3-5-11)14(20)21;/h2-8H,1H3,(H3,20,21)(H,22,23,24,25);1H
